US07414134B2
Synthesis of (R)-2-(4-methylbenzenesulfonamido)-3-(1-((R)-6-(piperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)propanoic acid (65)
(2R)-3-(1-(6-Formyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)-propanoic acid (85.8 μM, 1 eq) piperidine (3 eq) and HOAc (3 eq) were heated to 40° C. for 3 d. Additional portions of piperidine (3 eq) and HOAc (3 eq) were then added. After 2 h, MP-BH4 was added and the reaction mixture was allowed to stir for 3 days. The reaction mixture was concentrated and was purified using reverse phase conditions C18 (0-100% acetonitrile/water) to afford the title compound. MS (m/z): 538.2 (m+H).

reactant | (2R)-3-(1-(6-Formyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)-propanoic acid | 85.8 μM, 1 eq | C(=O)C=1C=C2CCCC(C2=CC1)N1N=NC(=C1)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C | C23H24N4O5S
reactant | HOAc | 3 eq | CC(=O)O | C2H4O2
reactant | piperidine | 3 eq | N1CCCCC1 | C5H11N
reactant | HOAc | 3 eq | CC(=O)O | C2H4O2
product | (R)-2-(4-methylbenzenesulfonamido)-3-(1-((R)-6-(piperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)propanoic acid | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)CC=1N=NN(C1)[C@@H]1CCCC2=CC(=CC=C12)CN1CCCCC1 | C28H35N5O4S
